US04410536
9-sec.-butyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
11 g of 5-hydrazino-3-methylbenzothiophene hydrochloride and 8.5 g of 1-sec.-butyl-4-piperidone are boiled in 35 ml of isopropanol, and during this procedure isopropanol/HCl are added dropwise. The mixture is then evaporated, the residue is taken up in water and the mixture is rendered alkaline and extracted with methylene chloride. After washing and drying the organic phase, it is evaporated and the residue is recrystallised from cyclohexane. Melting point: 136°-137° C.

reactant | 5-hydrazino-3-methylbenzothiophene hydrochloride | 11 g | Cl.N(N)C=1C=CC2=C(C(=CS2)C)C1
reactant | 1-sec.-butyl-4-piperidone | 8.5 g | C(C)(CC)N1CCC(CC1)=O | C9H17NO
reactant | isopropanol HCl | C(C)(C)O.Cl
solvent | isopropanol | 35 ml | C(C)(C)O | C3H8O
product | 9-sec.-butyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(C)(CC)N1CC2=C(NC3=CC=C4C(=C23)C(=CS4)C)CC1 | C18H22N2S
